US06162808
i) 5-[10,11-Dihydro-5H-dibenzo[a,d]cyclohepten-5-yl]-2,4(1H,3H)-pyrimidinedione
The subtitle compound was prepared from 5-bromo-2,4-bis(1,1-dimethylethoxy)pyrimidine (example step(i)) (3.5 g) and 10,11-dihydro-5H-dibenzo[a,d]cyclohepten-5-one (2.41 g) according to the method of example 1 step (iii). Purification was by chromatography eluting with 2% ethanol in dichloromethane. Yield 2.17 g. Used directly in the next step.

reactant | 5-bromo-2,4-bis(1,1-dimethylethoxy)pyrimidine | 3.5 g | BrC=1C(=NC(=NC1)OC(C)(C)C)OC(C)(C)C | C12H19BrN2O2
reactant | 10,11-dihydro-5H-dibenzo[a,d]cyclohepten-5-one | 2.41 g | C1=CC=CC=2C(C3=C(CCC21)C=CC=C3)=O | C15H12O
product | 5-[10,11-Dihydro-5H-dibenzo[a,d]cyclohepten-5-yl]-2,4(1H,3H)-pyrimidinedione | C1=CC=CC=2C(C3=C(CCC21)C=CC=C3)C=3C(NC(NC3)=O)=O | C19H16N2O2
